US05624935
5-Benzyloxy-2-hydroxymethyl-3-methyl-3H-imidazo[4,5-b]pyridine
A procedure similar to that described in Preparation 43 was repeated, except that 7.50 g of 3-amino-6-benzyloxy-2-methylaminopyridine (prepared as described in Preparation 93) and 7.46 g of glycolic acid were reacted. After working up the product as described in Preparation 43 , the resulting crude product was purifying by column chromatography through silica gel, using a 10:1 by volume mixture of ethyl acetate and methanol as the eluent, and was then crystallized by trituration with ethyl acetate, to give 4.10 g of the title compound, melting at 133°-135° C.

reactant | 3-amino-6-benzyloxy-2-methylaminopyridine | 7.50 g | NC=1C(=NC(=CC1)OCC1=CC=CC=C1)NC | C13H15N3O
reactant | glycolic acid | 7.46 g | C(CO)(=O)O | C2H4O3
product | 5-Benzyloxy-2-hydroxymethyl-3-methyl-3H-imidazo[4,5-b]pyridine | 4.10 g | C(C1=CC=CC=C1)OC1=CC=C2C(=N1)N(C(=N2)CO)C | C15H15N3O2
